US07528134B2
2-[4-(3-cyano-2-pyridinyl)-1-piperazinyl]-N-[4-(trifluoromethyl)phenyl]acetamide
2-Chloro-N-(4-trifluoromethylphenyl)acetamide (820 mg, 3.45 mmol, Maybridge) and N,N-diisopropylamine (2.5 mL) in toluene (50 mL) were treated with 2-piperazin-1-ylnicotinonitrile (800 mg, 4.25 mmol, Chess) and heated to 60° C. for 18 hours. The mixture was allowed to cool to room temperature, transferred to a separatory funnel and washed with saturated aqueous sodium bicarbonate. The organic phase was dried (sodium sulfate), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (gradient elution with 20% to 40% ethyl acetate:hexanes) to provide 1.05 g (78% yield) of the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 2.69 (m, 4H), 3.26 (s, 2H), 3.68 (m, 4H), 6.93 (dd, 1H, J=7.5, 4.7 Hz), 7.68 (AA′BB′, 2H, J=8.8 Hz), 7.88 (AA′BB′, 2H, J=8.5 Hz), 8.07 (dd, 1H, J=7.8, 2.0 Hz), 8.42 (dd, 1H, J=4.7, 2.0 Hz), 10.14 (br s, 1H); MS (DCI/NH3) m/e 390 (M+H)+;

reactant | 2-Chloro-N-(4-trifluoromethylphenyl)acetamide | 3.45 mmol, 820 mg | ClCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C9H7ClF3NO
reactant | N,N-diisopropylamine | 2.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-piperazin-1-ylnicotinonitrile | 4.25 mmol, 800 mg | N1(CCNCC1)C1=C(C#N)C=CC=N1 | C10H12N4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(3-cyano-2-pyridinyl)-1-piperazinyl]-N-[4-(trifluoromethyl)phenyl]acetamide | 1.05 g, 78% yield | C(#N)C=1C(=NC=CC1)N1CCN(CC1)CC(=O)NC1=CC=C(C=C1)C(F)(F)F | C19H18F3N5O
